US08633220B2
Triphenylphosphine (197 mg, 0.75 mmol) and diisopropyl azodicarboxylate (116 □L, 0.60 mmol) were added sequentially to a solution of methyl 6-hydroxy-1-naphthoate (101 mg, 0.50 mmol) and 1-pentanol (44 mg, 0.50 mmol) in CH2Cl2 (2.5 mL) at room temperature. After 38 h, the reaction mixture was concentrated in vacuo. The residue was suspended in EtOAc (20 mL) and washed with water (3×10 mL) and brine (10 mL). The organic phase was dried (Na2SO4), filtered and concentrated in vacuo. The resulting residue was purified on 12 g silica gel (100% hexanes 50% EtOAc/hexanes, gradient) to afford 135 mg (99%) of methyl 6-(pentyloxy)-1-naphthoate.

reactant | Triphenylphosphine | 0.75 mmol, 197 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.60 mmol | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | methyl 6-hydroxy-1-naphthoate | 0.50 mmol, 101 mg | OC=1C=C2C=CC=C(C2=CC1)C(=O)OC | C12H10O3
reactant | 1-pentanol | 0.50 mmol, 44 mg | C(CCCC)O | C5H12O
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-(pentyloxy)-1-naphthoate | 135 mg, 99% | C(CCCC)OC=1C=C2C=CC=C(C2=CC1)C(=O)OC | C17H20O3
